US07304074B2
To a mixture of pseudothiohydantoin (Aldrich, 97%, 23.2 mg, 0.20 mmol), AcONa (160 mg, 1.95 mmol), molecular sieves, and 6-formyl-4-isopropoxy-[1,5]naphthyridine-3-carbonitrile (53.1 mg, 0.22 mmol) (prepared as described below) in a sealed tube was added AcOH (0.3 mL). The reaction mixture was heated to 85-95° C. for 1.5 h. The reaction mixture was then cooled to r.t. and triturated with water. The solid was collected by filtration and washed with water. The solid was then suspended in hot DMF (20 mL) and filtered again. The filtrate was concentrated to give a brown solid: 55.8 mg, which was then purified by Biotage flash column (1%-6% MeOH in CH2Cl2) to give 6-(2-amino-4-oxo-4H-thiazol-5-ylidenemethyl)-4-isopropoxy-[1,5]naphthyridine-3-carbonitrile as a yellowish solid (15.5 mg, 22.8%). HR-ES (+) m/e calcd for C16H13N5O2S (M+H)+ 340.0863. found 340.0863.

reactant | pseudothiohydantoin | 0.20 mmol, 23.2 mg | COC=1C=CC(=CC1OC2CCCC2)/C=C\3/C(=O)NC(=N)S3 | C16H18N2O3S
reactant | AcONa | 1.95 mmol, 160 mg | C(=O)(C)O[Na]
reactant | 6-formyl-4-isopropoxy-[1,5]naphthyridine-3-carbonitrile | 0.22 mmol, 53.1 mg | C(=O)C=1N=C2C(=C(C=NC2=CC1)C#N)OC(C)C | C13H11N3O2
solvent | AcOH | 0.3 mL | CC(=O)O | C2H4O2
product | 6-(2-amino-4-oxo-4H-thiazol-5-ylidenemethyl)-4-isopropoxy-[1,5]naphthyridine-3-carbonitrile | 15.5 mg, 22.8% | NC=1SC(C(N1)=O)=CC=1N=C2C(=C(C=NC2=CC1)C#N)OC(C)C | C16H13N5O2S
